US04521413
A mixture of diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate chloride (syn isomer) (0.42 g) and anisole (1 ml) in trifluoroacetic acid (3.5 ml) was stirred for 15 minutes under cooling in an ice bath. The mixture was poured into diisopropyl ether (10 ml) and a resulting precipitate was filtered. The powder was dissolved in water and subjected to column chromatography on a non ionic adsorption resin "Diaion HP 20" (10 ml). After the column was washed with water, the elution was carried out with 30% aqueous methanol. The eluates containing an object compound were collected, evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.12 g), mp 129° to 138° C. (dec.).

reactant | diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate chloride | 0.42 g | [Cl-].C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)N(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.12 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)N(C)C)C(=O)[O-])C1=O)C1=NSC(=N1)N | C21H24N8O5S2
